US04431644
Dissolve 27.0 g of ethyl indole-2-carboxylate in 250 ml of trifluoroacetic acid. Add 2.05 g of platinium oxide, hydrogenate the mixture at 50 lb/in2 at room temperature. Filter the mixture and concentrate the filtrate in vacuo to give a residue. Suspend the residue in ether and treat with cold dilute sodium hydroxide solution. Dry the organic layer over magnesium sulfate and concentrate it to give ethyl octahydroindole-2-carboxylate, a pale yellow oil.

reactant | ethyl indole-2-carboxylate | 27.0 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 250 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
catalyst | platinium oxide | 2.05 g | O=[Pt]=O
product | ethyl octahydroindole-2-carboxylate | N1C(CC2CCCCC12)C(=O)OCC | C11H19NO2
